US06552188B2
Synthesis of (E)-5-bromo-1-phenyl-1-pentene
Metal sodium (303 mg) was added to dry 2-propanol (30 mL), and the mixture was stirred at 70° C. After the sodium was dissolved, benzaldehyde (1.0 g) was added to the solution at 0° C., 4-bromobutyltriphenylphosphonium bromide (5.4 g) was then added, and the mixture was gradually warmed to room temperature. After 5 hours, the reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the residue, and the resultant mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was then purified by column chromatography on silica gel (hexane) to obtain the title compound.

reactant | Metal | 303 mg | N[C@@H](CCSC)C=O | C5H11NOS
reactant | sodium | [Na] | Na
reactant | benzaldehyde | 1.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-bromobutyltriphenylphosphonium bromide | 5.4 g | [Br-].BrCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 2-propanol | 30 mL | CC(C)O | C3H8O
product | (E)-5-bromo-1-phenyl-1-pentene | BrCCC/C=C/C1=CC=CC=C1 | C11H13Br
